US07799933B2
4-Methoxycarbonylmethyl-benzoic acid (52.00 mg, 0.27 mmol) was suspended in dichloromethane (2.00 mL) and treated with thionyl chloride (95.57 mg, 0.80 mmol). The mixture was stirred at 50° C. for 18 hours, and the volatiles were evaporated. The residue was redissolved in tetrahydrofuran (2.00 mL) and treated with 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylamine (94.48 mg, 0.27 mmol) and 4-dimethylaminopyridine (66.76 mg, 0.54 mmol). The mixture was warmed to 75° C. and stirred for 2.5 hours. The mixture was treated with HCl 1 N and the slurry extracted several times with ethyl acetate. The combined organic phases were dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography (dichloromethane/methanol gradient) to yield {4-[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid methyl ester as an off-white solid, 134.20 mg (95%), MS (ISP): m/e=529.3 (M+H).

reactant | 4-Methoxycarbonylmethyl-benzoic acid | 0.27 mmol, 52.00 mg | COC(=O)CC1=CC=C(C(=O)O)C=C1 | C10H10O4
reactant | thionyl chloride | 0.80 mmol, 95.57 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylamine | 0.27 mmol, 94.48 mg | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCCC2=CC=C(C=C12)N)OC | C16H17ClN2O3S
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 2.00 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.54 mmol, 66.76 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | {4-[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)C(NC1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O)=O | C26H25ClN2O6S
